US07094801B2
4-[3E-(2-Fluoro-4-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 2-fluoro-4-thiophen-2-yl-benzaldehyde (Ex-30A) and 4-acetylbezoic acid in a similar manner as described in Ex-3. Yellow solid, 71% yield, m.p.>260° C. 1H-NMR (300 MHz, d6-DMSO): 8.19 (d, 2H, J=8.4 Hz), 8.12 (d, 1H, J=8 Hz), 8.06 (d, 2H, J=8 Hz), 7.95 (d, 1H, J=16 Hz), 7.80 (d, 1H, J=16 Hz), 7.71 (d, 1H, J=3.5 Hz), 7.62 (m, 2H), 7.56 (d, 1H, J=8 Hz), 7.15 (m, 1H). MS m/z=352 ([M]+, 100%). HRMS (EI) Calcd. for C20H13NO3S: 352.0569. Found: 352.0560.

reactant | 2-fluoro-4-thiophen-2-yl-benzaldehyde | FC1=C(C=O)C=CC(=C1)C=1SC=CC1 | C11H7FOS
reactant | 4-acetylbezoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-[3E-(2-Fluoro-4-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | 71% yield | FC1=C(C=CC(=C1)C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C20H13FO3S
